US06821971B2
Preparation of 1,2,3,4-tetrahydrophthalazine (5):
1,4-dihydrophthalazine-2,3-dicarboxylic acid di-tert-butyl ester, 4, (1.0 g, 3 mmol) is dissolved in MeOH (20 mL) and SOCl2 (0.5 mL) added dropwise. After stirring at room temp for 72 hours, the solvent is removed in vacuo to afford 0.6 g of the desired product as white solid.

reactant | 1,4-dihydrophthalazine-2,3-dicarboxylic acid di-tert-butyl ester | C(C)(C)(C)OC(=O)N1CC2=CC=CC=C2CN1C(=O)OC(C)(C)C | C18H26N2O4
reactant | SOCl2 | 0.5 mL | O=S(Cl)Cl | Cl2OS
solvent | MeOH | 20 mL | CO | CH4O
product | 1,2,3,4-tetrahydrophthalazine | 0.6 g | C1NNCC2=CC=CC=C12 | C8H10N2
